US04985585
Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylsulfinyl)propoxy]-2-propylphenoxy]butyrate
To a mixture of ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)propoxy]-2-propylphenoxy]butyrate (1.2 g) in methylene chloride (40 ml) was added m-chloroperbenzoic acid (0.51 g) on ice-water bath and was subjected to stirring at the same temperature for 2 hours. The obtained organic layer was washed twice with a cooled aqueous solution of potassium carbonate, then with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated. The resultant residue was purified through silica-gel column chromatography (eluting with benzene:ethyl acetate=1:1) to give the title compound (0.78 g, 63.2%) as colorless crystal, mp 74-76° C.

reactant | ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)propoxy]-2-propylphenoxy]butyrate | 1.2 g | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H42O7S
reactant | m-chloroperbenzoic acid | 0.51 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylsulfinyl)propoxy]-2-propylphenoxy]butyrate | 0.78 g, 63.2% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCCCS(=O)C1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H42O8S
